US03975443
A solution of 1-[1-(acetamidomethyl)cyclohexyl] piperidine (5.5 g.) in dry tetrahydrofuran (50 ml) was added dropwise with stirring during 10 mins. to a suspension of lithium aluminium hydride (3.8 g.) in dry tetrahydrofuran (100 ml). The mixture was heated under reflux for 51/2 hrs. and stirred at room temperature for 16 hrs. Water (10 ml) was added dropwise to decompose excess lithium aluminium hydride (grey suspension had turned white). The suspension was filtered through hyflo, washed with ether and the combined filtrates dried (anhyd. Na2SO4). The dried filtrate was evaporated to dryness under reduced pressure and the residual oil (5 g.) was distilled under high vacuum to give 1-[1-(Ethylaminomethyl)cyclohexyl]piperidine (3.5 g.). b.p. C 138°-144° at 5.5 mm.

reactant | 1-[1-(acetamidomethyl)cyclohexyl] piperidine | 5.5 g | C(C)(=O)NCC1(CCCCC1)N1CCCCC1 | C14H26N2O
reactant | lithium aluminium hydride | 3.8 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | 10 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-[1-(Ethylaminomethyl)cyclohexyl]piperidine | 3.5 g | C(C)NCC1(CCCCC1)N1CCCCC1 | C14H28N2
